US06281221B1
5-Chloro-6-ethyl-4-[cis-2-(4-methylphenyl)-1,3-dithian-5-ylamino]-pyrimidine
1.77 g (10 mmol) of 4,5-dichloro-6-ethyl-pyrimidine and 2.2 g (10 mmol) of 5-amino-2-(4-methylphenyl)-1,3-dithian were stirred with 2.02 g of triethylamine at 80-90° C. for 6 hours. The mixture was taken up in water/methylene chloride and the organic phase was dried and concentrated. For purification, the residue was chromatographed over silica gel (eluting agent petroleum ether/ethyl acetate 4:1). This gave 1.0 g of colorless solid (27.3% of theory), melting point: 138-139° C.

reactant | 4,5-dichloro-6-ethyl-pyrimidine | 10 mmol, 1.77 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 5-amino-2-(4-methylphenyl)-1,3-dithian | 10 mmol, 2.2 g | NC1CSC(SC1)C1=CC=C(C=C1)C | C11H15NS2
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | water methylene chloride | O.C(Cl)Cl
product | 5-Chloro-6-ethyl-4-[cis-2-(4-methylphenyl)-1,3-dithian-5-ylamino]-pyrimidine | ClC=1C(=NC=NC1CC)N[C@@H]1CS[C@@H](SC1)C1=CC=C(C=C1)C | C17H20ClN3S2
